US07846960B2
2-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-propan-1-ol
To a 0° C. solution of 2-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-propionaldehyde (753 mg, 1.74 mmol) in THF (17 mL) and MeOH (3 mL) is added sodium borohydride (198 mg, 5.23 mmol) portionwise. The reaction mixture is warmed to room temperature. After 2 h, the reaction is concentrated under reduced pressure and the residue is partitioned between Et2O (100 mL) and 1N HCl (30 mL). The aqueous layer is extracted with Et2O (100 mL) and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated, and chromatographed (0% to 30% EtOAc/Hex) to yield the title compound (715 mg, 95%). 1H NMR (400 MHz, CDCl3) δ 7.71 (s, 1H), 7.43-7.40 (m, 2H), 7.33-7.28 (m, 1H), 7.04 (d, 1H, J=8.4 Hz), 6.64-6.58 (m, 2H), 4.79 (s, 2H), 3.68-3.63 (m, 2H), 3.14-3.16 (m, 1H), 2.99 (sept, 1H, J=7.0 Hz), 2.28 (s, 3H), 1.30 (d, 3H, J=7.0 Hz), 1.21 (d, 6H, J=7.0 Hz).

reactant | 2-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-propionaldehyde | 1.74 mmol, 753 mg | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(C=O)C)C)C(C)C | C23H24Cl2N2O2
reactant | sodium borohydride | 5.23 mmol, 198 mg | [BH4-].[Na+]
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3 mL | CO | CH4O
product | 2-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-propan-1-ol | 715 mg, 95% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(CO)C)C)C(C)C | C23H26Cl2N2O2
